US08912224B2
To a solution of 2-(2-o-tolyl-chroman-6-yloxy)-thiazole-5-carbonitrile (2.3 g, 6.6 mmol) in tetrahydrofuran (100 ml) an aqueous suspension of Raney nickel (approximately 500 mg) was added and the resulting suspension was vigorously stirred under an hydrogen atmosphere (atmospheric pressure) for 1 h (TLC control) at 45° C. The suspension was filtered through a celite plug and the filter cake washed with ethyl acetate. The organic layer was dried over sodium sulfate and filtered, and the solvent was removed under reduced pressure. The crude product was purified by column chromatography (silica gel, ethyl acetate/methanol gradient). [2-(2-o-Tolyl-chroman-6-yloxy)-thiazol-5-ylmethyl]amine was obtained as pale yellow oil (834 mg, 36%).

reactant | 2-(2-o-tolyl-chroman-6-yloxy)-thiazole-5-carbonitrile | 6.6 mmol, 2.3 g | C1(=C(C=CC=C1)C1OC2=CC=C(C=C2CC1)OC=1SC(=CN1)C#N)C | C20H16N2O2S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | approximately 500 mg | [Ni] | Ni
product | [2-(2-o-Tolyl-chroman-6-yloxy)-thiazol-5-ylmethyl]amine | C1(=C(C=CC=C1)C1OC2=CC=C(C=C2CC1)OC=1SC(=CN1)CN)C | C20H20N2O2S
